US07960394B2
3-Methyl-2-[2-methyl-4-(1-cyclopentyl-4-piperidinyloxy)-phenyl]-4(3H)-quinazolinone
The entitled compound was obtained according to the method of Example 85 but using anthranilic acid, methylamine, 2-methyl-4-methoxybenzaldehyde, tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate, and cyclopentanone.

reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | methylamine | CN | CH5N
reactant | 2-methyl-4-methoxybenzaldehyde | CC1=C(C=O)C=CC(=C1)OC | C9H10O2
reactant | tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
product | 3-Methyl-2-[2-methyl-4-(1-cyclopentyl-4-piperidinyloxy)-phenyl]-4(3H)-quinazolinone | CN1C(=NC2=CC=CC=C2C1=O)C1=C(C=C(C=C1)OC1CCN(CC1)C1CCCC1)C | C26H31N3O2
